US07544697B2
A solution of N-[2-(1-benzyl-3-cyano-5-methyl-1H-pyrazol4-yl)phenyl]-2,2-dimethylpropanamide (2.40 g, 6.44 mmol) and sodium tert-butoxide (0.743 g, 7.73 mmol) in ethanol (28 mL) was heated at reflux for 1 day, then was allowed to cool to ambient temperature. A precipitate formed that was isolated by filtration and washed with water followed by water/ethanol (8:1) to provide 1.33 g of 2-benzyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine as a white powder, mp>250° C.

reactant | N-[2-(1-benzyl-3-cyano-5-methyl-1H-pyrazol4-yl)phenyl]-2,2-dimethylpropanamide | 6.44 mmol, 2.40 g | C(C1=CC=CC=C1)N1N=C(C(=C1C)C1=C(C=CC=C1)NC(C(C)(C)C)=O)C#N | C23H24N4O
reactant | sodium tert-butoxide | 7.73 mmol, 0.743 g | CC(C)([O-])C.[Na+]
solvent | ethanol | 28 mL | C(C)O | C2H6O
product | 2-benzyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 1.33 g | C(C1=CC=CC=C1)N1N=C2C(=NC=3C=CC=CC3C2=C1C)N | C18H16N4
